US04788130
10 Grams of 2,3-dihydro-4,6-dimethyl-7-hydroxy-1H-inden-1-one was dissolved in 200 ml of dimethylformamide, then 5.45 g of 60%-sodium hydride was added gradually thereto and the reaction mixture was stirred at room temperature for 30 minutes. Next, 6.91 ml of p-anisaldehyde was added to the reaction mixture and further stirred at room temperature for 1 hour. The reaction mixture was poured into 500 ml of ice-water, then acidified by adding hydrochloric acid, and the crystals formed were collected by filtration. The crystals were washed with water and with n-hexane and dried. Recrystallized from ethanol to obtain 16.09 g of 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-(4-methoxybenzylidene)-1H-inden-1-one. Yellow needle-like crystals. Melting point: 192°-193° C.

reactant | 2,3-dihydro-4,6-dimethyl-7-hydroxy-1H-inden-1-one | CC1=C2CCC(C2=C(C(=C1)C)O)=O | C11H12O2
reactant | sodium hydride | [H-].[Na+]
reactant | p-anisaldehyde | 6.91 ml | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-4,6-dimethyl-7-hydroxy-2-(4-methoxybenzylidene)-1H-inden-1-one | 16.09 g | CC1=C2CC(C(C2=C(C(=C1)C)O)=O)=CC1=CC=C(C=C1)OC | C19H18O3
